US05302720
A mixture of N-benzoyl-N'-(4'-fluoro-2-biphenylyl)thiourea (2.8 g) and sodium hydroxide (0.4 g) and water (10 ml) was heated at 90°-95° C. for 8 hours to yield N-(4'-fluoro-2-biphenylyl)thiourea as a colourless solid (m.p. 140°-142° C.).

reactant | N-benzoyl-N'-(4'-fluoro-2-biphenylyl)thiourea | 2.8 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC=C1)C1=CC=C(C=C1)F | C20H15FN2OS
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | N-(4'-fluoro-2-biphenylyl)thiourea | FC1=CC=C(C=C1)C1=C(C=CC=C1)NC(=S)N | C13H11FN2S
